Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Flushing  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ yo man with PMH notable for HTN and ADHD 
presenting with 1 week of progressive rash involving face and 
extremities associated with multitude of GI symptoms.  
 He states that the current episode started about 7 days ago. He 
started feeling flushing and red rash over his face without any 
pain or itchiness, but sensation of warmth. He denies any 
involvement of his eyes, mouth, or genitals. However, the 
flushing rash did spread to his neck and upper back as well as 
his feet and hands, almost in glove and stocking fashion. He 
during this time, endorses burning pain of his lower 
extremities, which he has had for a year now. Feel similar to 
old symptoms. However, burning now has spread to his hands. He 
feels these symptoms at least daily and intermittently. He has 
been started on ropinirole as an outpatient to address this 
issue.  
 Other symptoms he has noticed include anhydrosis of his entire 
body, especially of his armpits, even when it is hot outside and 
he feels like he needs to sweat. He endorses usual dry mouth, 
but has actually had increased salivary production of late. He 
denies any lightheadedness, sense of dehydration or dizziness. 
However, he has had significantly decreased PO intake i/s/o 
multiple GI symptoms.  
 These GI symptoms include dysphagia, especially to first meal 
of the day, associated with nausea and usually vomitus of the 
food he swallows. He also noticed some possible swelling or 
fullness of his left neck. Happens almost daily and has been 
most recently vomiting yellow material, NBNB. He also endorses 
abdominal discomfort in LLQ and LUQ, not clearly associated with 
eating and perhaps associated with BM's. These are sharp and 
intermittent, occurring about twice a day. He is stooling more 
than his usual once per day, up to ___ times/day a week ago, and 
then increasing to ___ times per day over past couple days. He 
states his stool is mucousy and yellow, perhaps foamy and 
floating. He denies hematochezia and endorses dark stool that is 
not quite sticky or jet black like the cover of his phone. No 
dyschezia or dysuria. Over this period, he has lost about 5 or 
so pounds. No fevers, chills, nightsweats, or LAD that he has 
noticed. He does have intermittent palpitations (baseline 
anxious) without chest pain/pressure. He also endorses sensation 
of SOB, best characterized as feeling as if he forgets to breath 
when he's not paying attention. Not SOB at rest when he is 
thinking about it.  
 He actually had a similar episode about 1 month ago, prior to 
which he felt completely normal, and was admitted to ___. 
___, where he had an extensive work-up including 
echocardiography and serologic testing for carcinoid syndrome. 
He states that the echo did not show any endocarditis but much 
of his work-up was still pending. He did return to baseline 
between this prior and current episode and has never had these 
symptoms before. He was actually about to gain 10 pounds since 
discharge before onset of his current episode of symptoms. He 
was actually also worked up with CT at ___ for the abdominal 
pain component of his sx recently.  
 Otherwise, pertinent history is negative for recent travel. 
Sick contacts include 1 roommate with possible viral URI. He 
does work with animals at a daycare center. He denies any new 
medications apart from amlodipine and ropinirole, both of which 
he started after his initial episode at ___. He does have a 
history of IVDU - last used heroin and cocaine about 2 months 
ago. No other herbal supplements or illicit/recreational drugs. 
Not sexually active over last 6 months.  
 
 In the ED, initial vitals were: 99.9, 95, 166/111, 17, 100% RA  

 - Exam notable for: Blanching rash overlying torso and 
forearms, rectal tone intact, motor intact, spreading rash over 
torso  
 - Labs notable for: WBC 7.5, H/H 16.1/44.5, Plt 258, Cr 0.7, 
UA: Few bacteria, 0 WBC, 80 Ketones  
 - Imaging was notable for: No imaging  
 - Patient was given: Nothing  
 - ED discussion with PCP. Patient has had CT scan of belly, 
cbcs normal. Referral to ED was made for purple hands and 
diminished cap refill. ROS also positive for incontinence, 
mucous in stool. Agreed with admission to ___  
 - Vitals prior to transfer: 97.8, 65, 155/107, 16, 100% RA  
 
 Upon arrival to the floor, patient reports the above history. 
Otherwise feels well without any issues at the moment.  

 
Past Medical History:
 -Anxiety  
 -ADHD  
 -HTN  
 
Social History:
___
Family History:
Notable for unclear type of cancer in mother's mother and 
another member on mother's side with pancreatic cancer. Mother 
and brother with celiac disease. Mother with some form of 
thyroid disease on levothyroxine therapy. Hypertension on 
father's side. No known history of IBD or other GI illness. 
 
Physical Exam:
ON ADMISSION
============
Vital Signs: 97.4 181/103 70 18 98 Ra  
General: Alert, oriented, no acute distress  
HEENT: NC/AT, sclera anicteric, EOMI, PERRL, no prominent 
conjunctival injection, MMM, tongue midline on protrusion, 
symmetric palatal elevation; no oral ulcers or lesions 
appreciated  
Neck: Supple, symmetric; mild left sided LAD in anterior 
cervical chain, non-tender; no posterior cervical chain LAD, no 
supraclavicular LAD  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, mildly tender in LUQ, LLQ, and RLQ, 
non-distended, bowel sounds present; no r/g  
GU: No foley  
LYMPH: no axillary or inguinal LAD appreciable on exam 
bilaterally  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: symmetric smile and eyebrow raise; ___ strength upper 
extremities and able to lift both ___ up against downward 
pressure; grossly intact sensation to light touch, perhaps 
decreased between ankles and knees on left side as compared to 
right, otherwise symmetric; no clonus  

ON DISCHARGE
============
VS: 97.9 140s-180s/70s-100s ___ 18 99% RA 
GENERAL: NAD, alert, interactive  
HEENT: NC/AT, sclerae anicteric, MMM.  Tongue with painless 
white patches.  
LUNGS: Clear to auscultation bilaterally, otherwise no w/r/r  
HEART: RRR, nml s1 s2, no m/r/g 
ABDOMEN: NABS, soft/NT/ND.  
EXTREMITIES: WWP, no peripheral edema  
SKIN: Erythematous, blanching, non-palpable rash over face, 
neck, upper chest, hands and lower arms.
NEURO: awake, A&Ox3.  Upper and lower extremity strength and 
sensation intact.  Cranial nerves intact.
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:06PM BLOOD WBC-7.5 RBC-5.14 Hgb-16.1 Hct-44.5 MCV-87 
MCH-31.3 MCHC-36.2 RDW-11.9 RDWSD-38.3 Plt ___
___ 03:06PM BLOOD Neuts-66.1 ___ Monos-5.0 Eos-0.3* 
Baso-0.4 Im ___ AbsNeut-4.99 AbsLymp-2.10 AbsMono-0.38 
AbsEos-0.02* AbsBaso-0.03
___ 06:25AM BLOOD ___ PTT-30.8 ___
___ 03:06PM BLOOD Glucose-82 UreaN-7 Creat-0.7 Na-139 K-3.7 
Cl-101 HCO3-20* AnGap-22*
___ 03:06PM BLOOD ALT-12 AST-16 LD(LDH)-164 AlkPhos-76 
TotBili-0.5
___ 03:06PM BLOOD Albumin-4.9
___ 05:45PM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:45PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-80 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:45PM URINE RBC-<1 WBC-0 Bacteri-FEW Yeast-NONE Epi-0

PERTINENT LABS
==============
___ 03:06PM BLOOD TSH-0.57
___ 03:06PM BLOOD CRP-0.4
___ 11:15AM BLOOD IgA-141
___ 11:15AM BLOOD HIV Ab-Negative
___ 11:15AM BLOOD tTG-IgA-Pending at time of discharge
___ 06:25AM BLOOD HCV Ab-Negative
___ 11:15AM BLOOD HIV1 VL-Pending at time of discharge

Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          2                   < OR = 15 mm/h
___                                        

DISCHARGE LABS
==============
___ 06:25AM BLOOD WBC-5.7 RBC-5.31 Hgb-16.9 Hct-46.7 MCV-88 
MCH-31.8 MCHC-36.2 RDW-12.5 RDWSD-40.0 Plt ___
___ 06:25AM BLOOD Glucose-81 UreaN-10 Creat-0.7 Na-143 
K-4.3 Cl-105 HCO3-25 AnGap-17

IMAGING
=======
N/a

MICRIOBIOLOGY
=============
URINE CULTURE (Final ___:    < 10,000 CFU/mL.

RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with PMHx of HTN and ADHD presenting 
with repeat episode of multisystem complaints, including 
flushing, burning pain in feet legs and forearms, anhydrosis and 
GI upset. Given the fact that his rash was in the distribution 
of sun exposed area, photosensitivity due to a medication effect 
(mirtazapine or Vyvanse), was suspected, but other causes of 
these symptoms that were considered included carcinoid syndrome, 
pheochromocytoma, HIV infection, HCV infection, syphilis, and 
celiac (given family history) were considered. HIV antibiody was 
negative, with viral load pending at time of discharge. HCV Ab 
was negative. TTG levels were pending on discharge. Given the 
fact that tobacco, caffeine, and likely his Vyvanse could affect 
results of urine metanephrines and urine 5HIAA, these tests were 
deferred until the outpatient setting. The patient's vyvanse was 
held and decision was made to hold the mirtazapine as well in 
order to see if his rash improves and in anticipation of the 
urine tests. His amlodipine was continued for hypertension, and 
his ropinorole was discontinued given lack of efficacy. The 
patient's rash improved slightly and was otherwise stable, so 
decision was made to follow up with PCP as outpatient and get 24 
hour urinary metanephrines and 5-HIAA levels as outpatient once 
he has been off of all tobacco, caffeine, and stimulant 
medications for at least three days. 

Mr ___ also expressed interest in re-starting Suboxone. He 
was initiated on a regimen of Suboxone 8mg BID. A prescription 
was provided him to last him until ___, when he will see 
his psychiatrist, Dr ___. Dr ___ will be his Suboxone 
provider. 

Transitional Issues:
[] Order is placed for outpatient 24 hour urinary metanephrines 
and urinary 5HIAA to be drawn here at ___. To be followed up 
during his PCP appointment at ___.
[] Mirtazapine and Vyvanse on hold for now to see if rash 
improves. Add them back as clinically indicated. Ropinerole held 
given lack of efficacy.
[] We recommended that the patient take melatonin over the 
counter for sleep in the mean time.
[] BP persistently elevated while hospitalized. Patient 
continued on amlodipine, which should continue as outpatient. 
Please follow up as outpatient.
[] Need to follow up HIV viral load and TTG tests after 
discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vyvanse (lisdexamfetamine) 40 mg oral DAILY 
2. rOPINIRole 1 mg PO QHS 
3. amLODIPine 5 mg PO DAILY 
4. Mirtazapine 15 mg PO QHS 

 
Discharge Medications:
1.  Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID  
2.  amLODIPine 5 mg PO DAILY  
3. HELD- Mirtazapine 15 mg PO QHS  This medication was held. Do 
not restart Mirtazapine until you have completed the urine 
collection
4. HELD- Vyvanse (lisdexamfetamine) 40 mg oral DAILY  This 
medication was held. Do not restart Vyvanse until you have 
completed the urine collection

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: rash of unclear origin (likely medication effect)
Secondary: ADHD, history of IV drug use, HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you had a skin rash and GI 
symptoms. We felt that most likely this was related to a 
medication effect so we decided to hold your mirtazapine and 
vyvanse to see if your rash gets better and in preparation for 
your urine test which could be affected by these medications. 
You should not take Mirtazapine or Vyvanse until your urine test 
is complete. You should also not smoke or drink caffeine until 
the test is complete. Finally, you should avoid ___ 
foods, including avocados, pineapples, bananas, kiwi, plums, 
eggplants, walnuts, pecans, tomatoes, and plantains. Your 
primary doctor at ___ follow up on the urine test.

We will provide you with a lab slip for your urine test. You can 
bring this to the ___ Building, ___, 
to get the collection test. 

If you need something to help you sleep, we would recommend 
Melatonin, which you can purchase over the counter at a 
pharmacy. 

We also started you on Suboxone, your dose is 8mg twice daily. 
For your Suboxone referral, please see your therapist and 
psychiatrist on ___ at 10:30 a.m. If you have 
questions or concerns, please call them at ___. 
Address: ___
 
If you would like any additional support or treatment regarding 
your substance use, please contact PAATHS (contact info below) 
or ___ Substance Abuse Helpline, at ___. 

PAATHS: Walk in hours ___ p.m. ___
___ floor, ___ 

We wish you all the best,
Your care team at ___
 
Followup Instructions:
___